US06166002
a) 4-(7,12-Dihydroxy-3-methanesulfonyloxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl)pentanoic acid
100 g of cholic acid are dissolved in 500 ml of pyridine and 23.1 ml of mesyl chloride are added dropwise at 0° C. over a period of 30 minutes. The mixture is stirred at RT for 3 hours, then poured onto a solution of 400 ml of H2SO4 in 3 l of water at 0° C. and extracted 4 times with 750 ml of EA each time. The organic phase is dried over Na2SO4 and the solvent is removed in vacuo. The residue is crystallized using diisopropyl ether and 117.1 g are obtained; m.p. 121° C. (with decomposition). Rf (EA/HEP/acetic acid 5:5:1)=0.31 MS (FAB): 487 (M+H)+

reactant | cholic acid | 100 g | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C24H40O5
reactant | mesyl chloride | 23.1 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | H2SO4 | 400 ml | OS(=O)(=O)O | H2O4S
reactant | EA | CC(OCC)=O | C4H8O2
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 3 l | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(7,12-Dihydroxy-3-methanesulfonyloxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl)pentanoic acid | OC1CC2CC(CCC2(C2CC(C3(C(CCC3C12)C(CCC(=O)O)C)C)O)C)OS(=O)(=O)C | C25H42O7S
